US09023865B2
6-Chloro-3-(4-fluorophenyl)-1H-pyrazolo[4,3-c]pyridine (433 mg, 1.748 mmol), 1-(2-methoxyethyl)urea (313 mg, 2.65 mmol) and chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) (97 mg, 0.121 mmol) were taken up in THF (10.5 mL) in a 20 mL microwave vial. 1 M potassium t-butoxide in THF (5.25 mL, 5.25 mmol) was added and the vial was evacuated and back-filled with N2 (x3). The reaction mixture was stirred at 60° C. for 18 hours. Room temperature was attained and the mixture filtered through Celite, eluting with MeOH. The filtrate was concentrated in vacuo and the residue purified by MPLC (0-10% MeOH-EtOAc). The product was then triturated in EtOH to give 1-(3-(4-fluorophenyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(2-methoxyethyl)urea (237 mg, 0.720 mmol, 41.2% yield). MS ESI calc'd. for C16H17FN5O2 [M+H]+ 330, found 330. 1H NMR (600 MHz, DMSO-d6) δ 13.21 (s, 1H), 9.15 (s, 1H), 9.04 (s, 1H), 8.07-8.04 (m, 2H), 7.72 (s, 1H), 7.35-7.31 (m, 3H), 3.39 (t, J=5.5 Hz, 2H), 3.32-3.29 (m, 2H), 3.27 (s, 3H).

reactant | 6-Chloro-3-(4-fluorophenyl)-1H-pyrazolo[4,3-c]pyridine | 1.748 mmol, 433 mg | ClC1=CC2=C(C=N1)C(=NN2)C2=CC=C(C=C2)F | C12H7ClFN3
reactant | 1-(2-methoxyethyl)urea | 2.65 mmol, 313 mg | COCCNC(=O)N | C4H10N2O2
reactant | potassium t-butoxide | 1 M | CC(C)([O-])C.[K+]
solvent | THF | 10.5 mL | C1CCOC1 | C4H8O
catalyst | chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-i-propyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) | 0.121 mmol, 97 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | THF | 5.25 mmol, 5.25 mL | C1CCOC1 | C4H8O
product | 1-(3-(4-fluorophenyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(2-methoxyethyl)urea | 0.720 mmol, 237 mg, 41.2% yield | FC1=CC=C(C=C1)C1=NNC2=C1C=NC(=C2)NC(=O)NCCOC | C16H16FN5O2
